US05616590
Preparation of N,N-diethyl-2-amino-3-(diethylcarbamoylthio)nicotinamide:
43 g of ammonia are injected into an autoclave with a solution of 40.2 g (122 mmol) of N,N-diethyl-3-(diethylcarbamoylthio)-2-fluoronicotinamide in 350 g of methanol, and the mixture is heated at 100° C. for 10 hours. It is then concentrated in vacuo and chromatographed on silica gel using ethyl acetate. Subsequent recrystallization from Et2O/hexane gives 18.7 g (47%) of yellowish crystals.

reactant | ammonia | 43 g | N | H3N
reactant | N,N-diethyl-3-(diethylcarbamoylthio)-2-fluoronicotinamide | 122 mmol, 40.2 g | C(C)N(C(C1(C(N=CC=C1)F)SC(N(CC)CC)=O)=O)CC | C15H24FN3O2S
solvent | methanol | 350 g | CO | CH4O
product | N,N-diethyl-2-amino-3-(diethylcarbamoylthio)nicotinamide | 18.7 g, 47% | C(C)N(C(C1(C(N=CC=C1)N)SC(N(CC)CC)=O)=O)CC | C15H26N4O2S
